*
* Low-Pass Filter + Limiter
*

* forces current values to be saved
.options savecurrents

******************************************

.param pi = 3.14159265359
.param n = '6'
*.param n = '(sqrt(2)*230/12)'

* input voltage source
*vS 1 0 0 sin(0 'sqrt(2)*230' '2*pi*50')
vS 2 3 0 sin(0 'sqrt(2)*230/n' 50)
*vS 1 0 0 sin(0 5 400)

* Full-Wave bridge rectifier 
Dd1 0 2 Default
Dd2 2 4 Default
Dd3 0 3 Default
Dd4 3 4 Default
*Ca 2 0 1u
Ci 4 0 14u
*Cb 3 0 1u
Ra 4 0 14k
Ri 4 9 5k

* Voltage Regulator
Dp1 9 5 Default
Dp2 5 6 Default
Dp3 6 7 Default
Dp4 7 8 Default
Dp5 8 10 Default
Dp6 10 11 Default
Dp7 11 12 Default
Dp8 12 13 Default
Dp9 13 14 Default
Dp10 14 15 Default
Dp11 15 16 Default
Dp12 16 17 Default
Dp13 17 18 Default
Dp14 18 19 Default
Dp15 19 20 Default
Dp16 20 21 Default
Dp17 21 0 Default


.measure tran _TAB param='1'
.measure tran OutFullWaveBridgeAVG AVG v(4) from=20m to=220m
.measure tran OutFullWaveBridgeMAX MAX v(4) from=20m to=220m
.measure tran OutFullWaveBridgeMIN MIN v(4) from=20m to=220m
.measure tran OutFullWaveBridgeRipple param='OutFullWaveBridgeMAX - OutFullWaveBridgeMIN'

.measure tran OutVoltRegAVG AVG v(9) from=20m to=220m
.measure tran OutVoltRegMAX MAX v(9) from=20m to=220m
.measure tran OutVoltRegMIN MIN v(9) from=20m to=220m
.measure tran OutVoltRegRipple param='OutVoltRegMAX - OutVoltRegMIN'
.measure tran _END param='1'



.model Default D
.op

.end

.control

*makes plots in color
set hcopypscolor=0
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0

******************************************
* analise no tempo
tran 1e-4 220e-3


hardcopy envldetc_ng.ps  v(2,3) v(4) v(9)
hardcopy volregd_ng.ps 'v(9)-12'

*hardcopy vospice50.ps v(2,3) v(4)
*hardcopy voripple.ps 'v(4)-12'
* hardcopy vospice400.ps v(1) v(2)

*quit
.endc

.end